US07528147B2
A suspension of 0.280 g of 4-chloro-2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 0.061 g of potassium carbonate and 0.114 g of 2-piperidin-4-ylethanol in 30 ml of acetonitrile is brought to a temperature in the region of 60° C. After heating at this temperature for approximately 5 hours, 0.061 g of potassium carbonate and 0.114 g of 2-piperidin-4-ylethanol are again added and the mixture is agitated at this temperature for approximately 2 hours. After returning to a temperature in the region of 20° C., the mixture is concentrated to dryness under reduced pressure (13 kPa), and then taken up with 50 ml of water and extracted with three times 40 ml of dichloromethane. The combined organic phases are dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a silica column [eluent: dichloromethane/methanol (95/5 by volume)]. 0.16 g of 2-[1-(2-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxyindol-1-yl}ethyl)piperidin-4-yl]ethanol is obtained in the form of an oil, the characteristics of which are as follows:

reactant | 4-chloro-2-[1-(2-iodoethyl)-5,6-dimethoxy-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.280 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCI)S(=O)(=O)C2=CC=C(C=C2)C | C26H23ClIN3O4S
reactant | potassium carbonate | 0.061 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-piperidin-4-ylethanol | 0.114 g | N1CCC(CC1)CCO | C7H15NO
reactant | potassium carbonate | 0.061 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-piperidin-4-ylethanol | 0.114 g | N1CCC(CC1)CCO | C7H15NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 2-[1-(2-{3-[4-chloro-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-5,6-dimethoxyindol-1-yl}ethyl)piperidin-4-yl]ethanol | 0.16 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCC(CC2)CCO)S(=O)(=O)C2=CC=C(C=C2)C | C33H37ClN4O5S
